US06680333B2
20d) (R)-3-((S)-2-(4,4-Bis(trifluoromethyl)-3-(4-(3-(2-methylphenyl)ureido)-3-methoxy-benzyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl) acetylamino)-3-methylpropionic Acid
which had been prepared from (S)-2-(4,4-bis(trifluoromethyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetic acid and 4-(3-(2-methylphenyl)ureido)-3-methoxybenzyl chloride as described in Example 18f, and 128 mg (0.809 mmol) of tert-butyl (R)-3-aminobutanoate. After coupling, chromatographic purification over silica gel (eluent: heptane/ethyl acetate=3/2) and cleavage of the tert-butyl ester, 299 mg (53%) of the title compound were obtained.

reactant | (S)-2-(4,4-bis(trifluoromethyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetic acid | FC(C1(NC(N(C1=O)[C@H](C(=O)O)CC(C)C)=O)C(F)(F)F)(F)F | C11H12F6N2O4
reactant | 4-(3-(2-methylphenyl)ureido)-3-methoxybenzyl chloride | CC1=C(C=CC=C1)NC(NC1=C(C=C(CCl)C=C1)OC)=O | C16H17ClN2O2
reactant | tert-butyl (R)-3-aminobutanoate | 0.809 mmol, 128 mg | N[C@@H](CC(=O)OC(C)(C)C)C | C8H17NO2
product | (R)-3-((S)-2-(4,4-Bis(trifluoromethyl)-3-(4-(3-(2-methylphenyl)ureido)-3-methoxy-benzyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl) acetylamino)-3-methylpropionic Acid | 299 mg, 53% | FC(C1(N(C(N(C1=O)[C@H](C(=O)N[C@@H](CC(=O)O)C)CC(C)C)=O)CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)C(F)(F)F)(F)F | C31H35F6N5O7
